US07893056B2
To a solution of (S)-(−)-4-benzyl-2-oxazolidinone (25 g, 141 mmol) in THF (350 mL) at −78° C. was added dropwise n-BuLi (56.4 mL, 2.5M solution in hexane, 141 mmol). After stirring for 60 min at the same temperature, the reaction mixture was then treated with 3-cyclopentylpropionyl chloride (21.6 mL, 141 mmol) over 0.25 h. The reaction mixture was allowed to warm to room temperature and stirred overnight. The reaction was quenched with saturated aqueous NH4Cl solution (320 mL). The aqueous layer was extracted with EtOAc (3×200 mL). The combined organic layers were dried (MgSO4) and evaporated to yield (4S)-benzyl-3-(3-cyclopentylpropanoyl)oxazolidin-2-one as a white solid (42.4 g, 100%). LCMS: (M+H)+: 302.3.

reactant | (S)-(−)-4-benzyl-2-oxazolidinone | 141 mmol, 25 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | n-BuLi | 141 mmol, 2.5M, 56.4 mL | [Li]CCCC
reactant | 3-cyclopentylpropionyl chloride | 141 mmol, 21.6 mL | C1(CCCC1)CCC(=O)Cl | C8H13ClO
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | (4S)-benzyl-3-(3-cyclopentylpropanoyl)oxazolidin-2-one | 42.4 g, 100% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CCC1CCCC1)=O | C18H23NO3
